US07825128B2
22) N-[3-(2-chloro-5-thiophen-2-yl-pyrimidine-4-ylamino)-propyl]-2-phenyl-acetamide
Preparation according to procedures 2 and 3 with the use of 2,4-dichloro-5-iodopyrimidine, N-(3-amino-propyl)-2-phenyl-acetamide and 4,4,5,5-tetramethyl-2-(2-thienyl)-1,3,2-dioxaborolane.

reactant | 2,4-dichloro-5-iodopyrimidine | ClC1=NC=C(C(=N1)Cl)I | C4HCl2IN2
reactant | N-(3-amino-propyl)-2-phenyl-acetamide | NCCCNC(CC1=CC=CC=C1)=O | C11H16N2O
reactant | 4,4,5,5-tetramethyl-2-(2-thienyl)-1,3,2-dioxaborolane | CC1(OB(OC1(C)C)C=1SC=CC1)C | C10H15BO2S
product | N-[3-(2-chloro-5-thiophen-2-yl-pyrimidine-4-ylamino)-propyl]-2-phenyl-acetamide | ClC1=NC=C(C(=N1)NCCCNC(CC1=CC=CC=C1)=O)C=1SC=CC1 | C19H19ClN4OS
